* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL NC_U1_7_6
.include "LTC1044.lib"
V2 N_WIRE_001 0 PULSE(0 5 2n 2n 2n 0.25m 0.5m)
C1 N003 N004 100u
V1 in 0 5
XU1 in N003 0 N004 out NC_U1_7_6 NC_U1_7_7 in LTC1044HV
R1 out 0 1k
C2 out 0 100u
.tran 1
.backanno
.end
